US07576108B2
c: (2-Cyclohexyl-ethyl)-triphenyl-phosphonium iodide
Dissolve (2-iodo-ethyl)-cyclohexane (3.0 g, 12.5 mmol) in toluene, add triphenyl-phosphine (3.1 g, 11.9 mmol) and stir at 80° C. over night. Cool the reaction mixture down to room temperature and isolate the product by filtration as a white solid (4.75 g). 1H-NMR (CDCl3) δ=0.78-0.96 (m, 2H), 1.01-1.34 (m, 3H), 1.44-1.74 (m, 2H), 3.56-3.70 (m, 2H), 7.66-7.90 (m, 15H).

reactant | (2-iodo-ethyl)-cyclohexane | 12.5 mmol, 3.0 g | ICCC1CCCCC1 | C8H15I
reactant | triphenyl-phosphine | 11.9 mmol, 3.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2-Cyclohexyl-ethyl)-triphenyl-phosphonium iodide | [I-].C1(CCCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H30P.HI/c1-5-13-23(14-6-1)21-22-27(24-15-7-2-8-16-24,25-17-9-3-10-18-25)26-19-11-4-12-20-26;/h2-4,7-12,15-20,23H,1,5-6,13-14,21-22H2;1H/q+1;/p-1
